US07501411B2
Step 6: 3-Bromobenzo[b]thiophene-7-carboxylic acid amide
A solution of benzo[b]thiophene-7-carboxylic acid amide (500 mg, 2.82 mmol) in dichloromethane (5 mL) is stirred at rt and acetic acid (5 mL) is added followed by NBS (750 mg, 4.23 mmol, 1.5 equiv.). The reaction is stirred at room temperature for 1 hour at which point LC-MS analysis shows full conversion of the starting material to the desired compound (79%) and dibrominated material (21%). The reaction is diluted with water (50 mL), neutralized with aqueous potassium disulfite, followed by sodium bicarbonate. The aqueous layer is then extracted with dichloromethane and the resulting organic layers are combined, washed with brine, dried over Na2SO4 and evaporated. The crude material is purified by LC using DCM as the eluent to afford the title compound as a white solid (300 mg, 41%).

reactant | benzo[b]thiophene-7-carboxylic acid amide | 2.82 mmol, 500 mg | S1C2=C(C=C1)C=CC=C2C(=O)N | C9H7NOS
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
reactant | NBS | 4.23 mmol, 750 mg, 1.5 equiv. | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-Bromobenzo[b]thiophene-7-carboxylic acid amide | 79% | BrC=1C2=C(SC1)C(=CC=C2)C(=O)N | C9H6BrNOS
